US05629343
The higher RfTLC fraction product of N-(2-acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine, t-butyl ester (1.90 g, 4.5 mmole) was dissolved in 5 mL of trifluoroacetic acid (TFA) and 420 mg anisole at 0° C. for 18 h. No starting material was observed by TLC. The TFA was azeotroped off under reduced pressure with benzene. The product was suspended in hexane and filtered to remove the anisole. Recovered 1.2 g of N-(2-acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine (73% yield).

reactant | N-(2-acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine, t-butyl ester | 4.5 mmole, 1.90 g | C(C)(=O)SCC(C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CCC1=CC=CC=C1 | C23H35NO4S
reactant | anisole | 420 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine | 1.2 g, 73% yield | C(C)(=O)SCC(C(=O)N[C@@H](CC(C)C)C(=O)O)CCC1=CC=CC=C1 | C19H27NO4S
